.subckt 4inputAND in1 in2 in3 in4 out vdd gnd
   X59 in1 in2 a vdd gnd AND
   X60 in3 in4 b vdd gnd AND
   X61 a b out vdd gnd AND
.ends 4inputAND