.subckt 5inputAND in1 in2 in3 in4 in5 out vdd gnd
   X68 in1 in2 a vdd gnd AND
   X69 in3 in4 b vdd gnd AND
   X70 a b c vdd gnd AND
   X71 c in5 out vdd gnd AND
.ends 5inputAND