.subckt fulladder A B C_in S C vdd gnd
   X25 A B X vdd gnd XOR
   X26 C_in X S vdd gnd XOR
   X27 A B Y vdd gnd AND
   X28 X C_in Z vdd gnd AND
   X29 Y Z C vdd gnd OR
.ends fulladder